US04204991
9.8 g of t-butoxycarbonylsarcosylnitroarginylvalyltyrosine and 7.6 g of isoleucylhistidylprolylserine methyl ester hydrochloride are dissolved in 100 ml of dimethylformamide. The solution is cooled to 0° C. To the solution is added 2.03 g of 1-hydroxybenzotriazole, 1.7 ml of N-methylmorpholine and 4.64 g of dicyclohexylcarbodiimide. The reaction mixture is stirred for two hours at 0° C. and then is allowed to stand at 4° C. for sixteen hours. Dicyclohexylurea is filtered from the reaction mixture and is washed with acetone. 300 ml of ethyl acetate is added to the solution. The solution is extracted three times with 300 ml saturated potassium bicarbonate and two times with 300 ml of brine. The product is extracted into 300 ml of 2 M potassium bisulfate. The acidic solution is neutralized with potassium carbonate. The slightly basic aqueous solution is extracted three times with 300 ml of methylene chloride. The methylene chloride solution, which contains the product, is dried over sodium sulfate, filtered and stripped of solvent under vacuum. The residue is dissolved in 100 ml of ethyl acetate. The solution is added to 1 liter of cold rapidly stirring Skellysolve B. The white precipitate was filtered and dried under vacuum at 55° C. to afford the product t-butoxycarbonylsarcosylnitroarginylvalyltyrosylisoleucylhistidylprolylserine methyl ester.

reactant | t-butoxycarbonylsarcosylnitroarginylvalyltyrosine | 9.8 g | C(C)(C)(C)OC(=O)N(C)CC(=O)N([C@@H](CCCNC(N)=N)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)[N+](=O)[O-] | C28H44N8O10
reactant | isoleucylhistidylprolylserine methyl ester hydrochloride | 7.6 g | Cl.COC([C@@H](NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](N)[C@@H](C)CC)=O)CC1=CNC=N1)=O)=O)CO)=O
reactant | 1-hydroxybenzotriazole | 2.03 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 1.7 ml | CN1CCOCC1 | C5H11NO
reactant | dicyclohexylcarbodiimide | 4.64 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | t-butoxycarbonylsarcosylnitroarginylvalyltyrosylisoleucylhistidylprolylserine methyl ester | COC([C@@H](NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](N([N+](=O)[O-])C(CN(C)C(=O)OC(C)(C)C)=O)CCCNC(N)=N)=O)C(C)C)=O)CC1=CC=C(C=C1)O)=O)[C@@H](C)CC)=O)CC1=CNC=N1)=O)=O)CO)=O | C49H76N14O15
